US07700638B2
1-Phenyl-7-(3-pyridyl)-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (370 mg, 1 mmol), diethyl 3-pyridylborane (220 mg, 1.5 mmol), sodium bicarbonate (420 mg, 5 mmol) and tetrakis(triphenylphosphine)palladium(0) (29 mg, 0.025 mmol) in a mixture of water (5 ml) and dimethoxyethane (10 ml) was stirred at reflux overnight The cooled reaction mixture was partitioned between ethyl acetate and water, and the organic extract was purified by column chromatography on silica gel eluting with a mixture of dichloromethane and acetone (9:1, v/v). The product was isolated by removal of solvent from appropriate eluate fractions followed by trituration of the residue with a mixture of water and ethanol. Yield: 130 mg (38%), m/z, 340.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 1 mmol, 370 mg | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | diethyl 3-pyridylborane | 1.5 mmol, 220 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | sodium bicarbonate | 5 mmol, 420 mg | C([O-])(O)=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Phenyl-7-(3-pyridyl)-5-trifluoromethylbenzimidazole | C1(=CC=CC=C1)N1C=NC2=C1C(=CC(=C2)C(F)(F)F)C=2C=NC=CC2 | C19H12F3N3
